US05047540
To a solution of 972 mg (1.8 mM) of 3-(3-chloropropylsulfonylamino)-2-methoxy-1-octadecylcarbamoyloxypropane IIIa1 in 10 ml of methyl ethyl ketone is added 500 mg (3.38 mM) of sodium iodide and the mixture is refluxed for 3 hours with stirring. After the solvent is evaporated, the residue is purified by the column chromatography on silica gel with a n-hexane-ethyl acetate (1:1) mixture as an eluent. The product is recrystallized from chloroform-n-hexane to give 972 mg (1.54 mM) of 3-(3-iodopropylsulfonylamino)-2-methoxy-1-octadecylcarbamoyloxypropane IIa1 in 86% yield.

reactant | 3-(3-chloropropylsulfonylamino)-2-methoxy-1-octadecylcarbamoyloxypropane | 1.8 mM, 972 mg | ClCCCS(=O)(=O)NCC(COC(NCCCCCCCCCCCCCCCCCC)=O)OC | C26H53ClN2O5S
reactant | sodium iodide | 3.38 mM, 500 mg | [I-].[Na+]
solvent | methyl ethyl ketone | 10 ml | C(C)C(=O)C | C4H8O
product | 3-(3-iodopropylsulfonylamino)-2-methoxy-1-octadecylcarbamoyloxypropane | 1.54 mM, 972 mg, 86% yield | ICCCS(=O)(=O)NCC(COC(NCCCCCCCCCCCCCCCCCC)=O)OC | C26H53IN2O5S
